US07605190B2
1.85 g (9.42 mmol) 2 phenyl-1,3-dithian was placed in a dry 50-ml three-necked flask under argon and dissolved in 28 ml anhydrous THF. 3.99 ml 2.36 M BuLi solution in hexane was added dropwise at 0° C. and the reaction solution stirred for 2 h at 0° C. 0.83 mg (3.93 mmol) diethyldichlorogermanium dissolved in 8 ml anhydrous THF was added slowly dropwise at 0° C. to the reaction mixture and then stirred for an additional 2 h at 0° C. To complete the reaction a further solution of 2-phenyl-2-lithium-1,3-dithian (2.36 mmol) was prepared as described above and added dropwise at 0° C. to the reaction solution, which was then stirred for 18 h at 6° C. The reaction was quenched by the addition of 20 ml water and the raw product extracted with diethyl ether (3×30 ml). The combined organic phases were dried with Na2SO4 and the solvent drawn off at the rotary evaporator. The residue was separated off by column chromatography (petroleum ether: ethyl acetate=20:1). 1.42 g (70% of the theoretical value) diethylbis(2-phenyl-1,3-dithian-2-yl)germanium was obtained as colorless solid. DC (petroleum ether: ethyl acetate=20:1): Rf=0.51

reactant | phenyl-1,3-dithian | C1(=CC=CC=C1)C1SCCCS1 | C10H12S2
reactant | BuLi | 2.36 M, 3.99 ml | [Li]CCCC
reactant | diethyldichlorogermanium | 3.93 mmol, 0.83 mg | C(C)[Ge](Cl)(Cl)CC | C4H10Cl2Ge
solvent | THF | 28 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | diethylbis(2-phenyl-1,3-dithian-2-yl)germanium | C(C)[Ge](C1(SCCCS1)C1=CC=CC=C1)(C1(SCCCS1)C1=CC=CC=C1)CC | C24H32GeS4
